.subckt AND Va Vb Vout vdd gnd

.INCLUDE NAND/NAND.sub
.INCLUDE INVERTER/INVERTER.sub

x1 Va Vb Vout1 vdd gnd NAND
x2 Vout1 Vout vdd gnd INVERTER

.ends AND