.subckt AND_3 Va Vb Vc Vout vdd gnd

.INCLUDE NAND_3.sub
.INCLUDE INVERTER.sub

x1 Va Vb Vc Vout1 vdd gnd NAND_3
x2 Vout1 Vout vdd gnd INVERTER

.ends AND_3