.INCLUDE 22nm_MGK.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18
.INCLUDE AND.sub
.INCLUDE AND_3.sub
.INCLUDE OR.sub
.INCLUDE XOR.sub
.INCLUDE INVERTER.sub
.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM Ldiff=44n
.PARAM SUPPLY=0.8
.global vdd gnd

VDS vdd gnd 'SUPPLY'

Vin1 in1 gnd 0
Vin2 in5 gnd 0
Vin3 in9 gnd 0
Vin4 in13 gnd 0
Vin5 in17 gnd 0
Vin6 in21 gnd 0
Vin7 in25 gnd 0
Vin8 in29 gnd 0
Vin9 in33 gnd 0
Vin10 in37 gnd 0
Vin11 in41 gnd 0
Vin12 in45 gnd 0
Vin13 in49 gnd 0
Vin14 in53 gnd 0
Vin15 in57 gnd 0
Vin16 in61 gnd 0
Vin17 in65 gnd 0
Vin18 in69 gnd 0
Vin19 in73 gnd 0
Vin20 in77 gnd 0
Vin21 in81 gnd 0
Vin22 in85 gnd 0
Vin23 in89 gnd 0
Vin24 in93 gnd 0
Vin25 in97 gnd 0
Vin26 in101 gnd 0
Vin27 in105 gnd 0
Vin28 in109 gnd 0
Vin29 in113 gnd 0
Vin30 in117 gnd 0
Vin31 in121 gnd 0
Vin32 in125 gnd 0
Vin33 in129 gnd 0
Vin34 in130 gnd 0
Vin35 in131 gnd 0
Vin36 in132 gnd 0
Vin37 in133 gnd 0
Vin38 in134 gnd 0
Vin39 in135 gnd 0
Vin40 in136 gnd 0
Vin41 in137 gnd 0

*************************************************************************

X_XA0 in1 in5 XA__0 vdd gnd XOR
X_XA1 in9 in13 XA__1 vdd gnd XOR
X_XA2 in17 in21 XA__2 vdd gnd XOR
X_XA3 in25 in29 XA__3 vdd gnd XOR
X_XA4 in33 in37 XA__4 vdd gnd XOR
X_XA5 in41 in45 XA__5 vdd gnd XOR
X_XA6 in49 in53 XA__6 vdd gnd XOR
X_XA7 in57 in61 XA__7 vdd gnd XOR
X_XA8 in65 in69 XA__8 vdd gnd XOR
X_XA9 in73 in77 XA__9 vdd gnd XOR
X_XA10 in81 in85 XA__10 vdd gnd XOR
X_XA11 in89 in93 XA__11 vdd gnd XOR
X_XA12 in97 in101 XA__12 vdd gnd XOR
X_XA13 in105 in109 XA__13 vdd gnd XOR
X_XA14 in113 in117 XA__14 vdd gnd XOR
X_XA15 in121 in125 XA__15 vdd gnd XOR

X_F0 XA__0 XA__1 F__0 vdd gnd XOR
X_F1 XA__2 XA__3 F__1 vdd gnd XOR
X_F2 XA__4 XA__5 F__2 vdd gnd XOR
X_F3 XA__6 XA__7 F__3 vdd gnd XOR
X_F4 XA__8 XA__9 F__4 vdd gnd XOR
X_F5 XA__10 XA__11 F__5 vdd gnd XOR
X_F6 XA__12 XA__13 F__6 vdd gnd XOR
X_F7 XA__14 XA__15 F__7 vdd gnd XOR

X_H0 in129 in137 H__0 vdd gnd AND
X_H1 in130 in137 H__1 vdd gnd AND
X_H2 in131 in137 H__2 vdd gnd AND
X_H3 in132 in137 H__3 vdd gnd AND
X_H4 in133 in137 H__4 vdd gnd AND
X_H5 in134 in137 H__5 vdd gnd AND
X_H6 in135 in137 H__6 vdd gnd AND
X_H7 in136 in137 H__7 vdd gnd AND

X_XB0 in1 in17 XB__0 vdd gnd XOR
X_XB1 in5 in21 XB__1 vdd gnd XOR
X_XB2 in9 in25 XB__2 vdd gnd XOR
X_XB3 in13 in29 XB__3 vdd gnd XOR
X_XB4 in65 in81 XB__4 vdd gnd XOR
X_XB5 in69 in85 XB__5 vdd gnd XOR
X_XB6 in73 in89 XB__6 vdd gnd XOR
X_XB7 in77 in93 XB__7 vdd gnd XOR

X_XC0 in33 in49 XC__0 vdd gnd XOR
X_XC1 in37 in53 XC__1 vdd gnd XOR
X_XC2 in41 in57 XC__2 vdd gnd XOR
X_XC3 in45 in61 XC__3 vdd gnd XOR
X_XC4 in97 in113 XC__4 vdd gnd XOR
X_XC5 in101 in117 XC__5 vdd gnd XOR
X_XC6 in105 in121 XC__6 vdd gnd XOR
X_XC7 in109 in125 XC__7 vdd gnd XOR

X_XE0 XB__0 XC__0 XE__0 vdd gnd XOR
X_XE1 XB__1 XC__1 XE__1 vdd gnd XOR
X_XE2 XB__2 XC__2 XE__2 vdd gnd XOR
X_XE3 XB__3 XC__3 XE__3 vdd gnd XOR
X_XE4 XB__4 XC__4 XE__4 vdd gnd XOR
X_XE5 XB__5 XC__5 XE__5 vdd gnd XOR
X_XE6 XB__6 XC__6 XE__6 vdd gnd XOR
X_XE7 XB__7 XC__7 XE__7 vdd gnd XOR

X_G0 F__0 F__1 G__0 vdd gnd XOR
X_G1 F__2 F__3 G__1 vdd gnd XOR
X_G2 F__0 F__2 G__2 vdd gnd XOR
X_G3 F__1 F__3 G__3 vdd gnd XOR
X_G4 F__4 F__5 G__4 vdd gnd XOR
X_G5 F__6 F__7 G__5 vdd gnd XOR
X_G6 F__4 F__6 G__6 vdd gnd XOR
X_G7 F__5 F__7 G__7 vdd gnd XOR

X_XD0 G__4 H__0 XD__0 vdd gnd XOR
X_XD1 G__5 H__1 XD__1 vdd gnd XOR
X_XD2 G__6 H__2 XD__2 vdd gnd XOR
X_XD3 G__7 H__3 XD__3 vdd gnd XOR
X_XD4 G__0 H__4 XD__4 vdd gnd XOR
X_XD5 G__1 H__5 XD__5 vdd gnd XOR
X_XD6 G__2 H__6 XD__6 vdd gnd XOR
X_XD7 G__3 H__7 XD__7 vdd gnd XOR

X_S0 XD__0 XE__0 S__0 vdd gnd XOR
X_S1 XD__1 XE__1 S__1 vdd gnd XOR
X_S2 XD__2 XE__2 S__2 vdd gnd XOR
X_S3 XD__3 XE__3 S__3 vdd gnd XOR
X_S4 XD__4 XE__4 S__4 vdd gnd XOR
X_S5 XD__5 XE__5 S__5 vdd gnd XOR
X_S6 XD__6 XE__6 S__6 vdd gnd XOR
X_S7 XD__7 XE__7 S__7 vdd gnd XOR



* Syndrome *

*************************************************************************

X_S0B0 S__0 S0B__0 vdd gnd INVERTER
X_S0B1 S__0 S0B__1 vdd gnd INVERTER
X_S0B2 S__0 S0B__2 vdd gnd INVERTER
X_S0B3 S__0 S0B__3 vdd gnd INVERTER
X_S0B4 S__0 S0B__4 vdd gnd INVERTER
X_S1B0 S__1 S1B__0 vdd gnd INVERTER
X_S1B1 S__1 S1B__1 vdd gnd INVERTER
X_S1B2 S__1 S1B__2 vdd gnd INVERTER
X_S1B3 S__1 S1B__3 vdd gnd INVERTER
X_S1B4 S__1 S1B__4 vdd gnd INVERTER
X_S2B0 S__2 S2B__0 vdd gnd INVERTER
X_S2B1 S__2 S2B__1 vdd gnd INVERTER
X_S2B2 S__2 S2B__2 vdd gnd INVERTER
X_S2B3 S__2 S2B__3 vdd gnd INVERTER
X_S2B4 S__2 S2B__4 vdd gnd INVERTER
X_S3B0 S__3 S3B__0 vdd gnd INVERTER
X_S3B1 S__3 S3B__1 vdd gnd INVERTER
X_S3B2 S__3 S3B__2 vdd gnd INVERTER
X_S3B3 S__3 S3B__3 vdd gnd INVERTER
X_S3B4 S__3 S3B__4 vdd gnd INVERTER
X_S4B0 S__4 S4B__0 vdd gnd INVERTER
X_S4B1 S__4 S4B__1 vdd gnd INVERTER
X_S4B2 S__4 S4B__2 vdd gnd INVERTER
X_S4B3 S__4 S4B__3 vdd gnd INVERTER
X_S4B4 S__4 S4B__4 vdd gnd INVERTER
X_S5B0 S__5 S5B__0 vdd gnd INVERTER
X_S5B1 S__5 S5B__1 vdd gnd INVERTER
X_S5B2 S__5 S5B__2 vdd gnd INVERTER
X_S5B3 S__5 S5B__3 vdd gnd INVERTER
X_S5B4 S__5 S5B__4 vdd gnd INVERTER
X_S6B0 S__6 S6B__0 vdd gnd INVERTER
X_S6B1 S__6 S6B__1 vdd gnd INVERTER
X_S6B2 S__6 S6B__2 vdd gnd INVERTER
X_S6B3 S__6 S6B__3 vdd gnd INVERTER
X_S6B4 S__6 S6B__4 vdd gnd INVERTER
X_S7B0 S__7 S7B__0 vdd gnd INVERTER
X_S7B1 S__7 S7B__1 vdd gnd INVERTER
X_S7B2 S__7 S7B__2 vdd gnd INVERTER
X_S7B3 S__7 S7B__3 vdd gnd INVERTER
X_S7B4 S__7 S7B__4 vdd gnd INVERTER

X_T0_temp S0B__0 S1B__0 S2B__0 T0_temp vdd gnd AND_3
X_T0 T0_temp S__3 T__0 vdd gnd AND
X_T1_temp S0B__1 S1B__1 S__2 T1_temp vdd gnd AND_3
X_T1 T1_temp S3B__0 T__1 vdd gnd AND
X_T2_temp S0B__2 S__1 S2B__1 T2_temp vdd gnd AND_3
X_T2 T2_temp S3B__1 T__2 vdd gnd AND
X_T3_temp S__0 S1B__2 S2B__2 T3_temp vdd gnd AND_3
X_T3 T3_temp S3B__2 T__3 vdd gnd AND
X_T4_temp S4B__0 S5B__0 S6B__0 T4_temp vdd gnd AND_3
X_T4 T4_temp S__7 T__4 vdd gnd AND
X_T5_temp S4B__1 S5B__1 S__6 T5_temp vdd gnd AND_3
X_T5 T5_temp S7B__0 T__5 vdd gnd AND
X_T6_temp S4B__2 S__5 S6B__1 T6_temp vdd gnd AND_3
X_T6 T6_temp S7B__1 T__6 vdd gnd AND
X_T7_temp S__4 S5B__2 S6B__2 T7_temp vdd gnd AND_3
X_T7 T7_temp S7B__2 T__7 vdd gnd AND

X_U0_temp1 T__0 T__1 T0_out1 vdd gnd OR
X_U0_temp2 T0_out1 T__2 T0_out2 vdd gnd OR
X_U0 T0_out2 T__3 U__0 vdd gnd OR
X_U1_temp1 T__4 T__5 T1_out1 vdd gnd OR
X_U1_temp2 T1_out1 T__6 T1_out2 vdd gnd OR
X_U1 T1_out2 T__7 U__1 vdd gnd OR

X_W0_temp S__4 S5B__3 S__6 W0_temp vdd gnd AND_3
X_W0 W0_temp S7B__3 U__0 W__0 vdd gnd AND_3
X_W1_temp S__4 S5B__4 S6B__3 W1_temp vdd gnd AND_3
X_W1 W1_temp S__7 U__0 W__1 vdd gnd AND_3
X_W2_temp S4B__3 S__5 S__6 W2_temp vdd gnd AND_3
X_W2 W2_temp S7B__4 U__0 W__2 vdd gnd AND_3
X_W3_temp S4B__4 S__5 S6B__4 W3_temp vdd gnd AND_3
X_W3 W3_temp S__7 U__0 W__3 vdd gnd AND_3
X_W4_temp S__0 S1B__3 S__2 W4_temp vdd gnd AND_3
X_W4 W4_temp S3B__3 U__1 W__4 vdd gnd AND_3
X_W5_temp S__0 S1B__4 S2B__3 W5_temp vdd gnd AND_3
X_W5 W5_temp S__3 U__1 W__5 vdd gnd AND_3
X_W6_temp S0B__3 S__1 S__2 W6_temp vdd gnd AND_3
X_W6 W6_temp S3B__4 U__1 W__6 vdd gnd AND_3
X_W7_temp S0B__4 S__1 S2B__4 W7_temp vdd gnd AND_3
X_W7 W7_temp S__3 U__1 W__7 vdd gnd AND_3

X_E0 W__0 S__0 E__0 vdd gnd AND
X_E1 W__0 S__1 E__1 vdd gnd AND
X_E2 W__0 S__2 E__2 vdd gnd AND
X_E3 W__0 S__3 E__3 vdd gnd AND
X_E4 W__1 S__0 E__4 vdd gnd AND
X_E5 W__1 S__1 E__5 vdd gnd AND
X_E6 W__1 S__2 E__6 vdd gnd AND
X_E7 W__1 S__3 E__7 vdd gnd AND
X_E8 W__2 S__0 E__8 vdd gnd AND
X_E9 W__2 S__1 E__9 vdd gnd AND
X_E10 W__2 S__2 E__10 vdd gnd AND
X_E11 W__2 S__3 E__11 vdd gnd AND
X_E12 W__3 S__0 E__12 vdd gnd AND
X_E13 W__3 S__1 E__13 vdd gnd AND
X_E14 W__3 S__2 E__14 vdd gnd AND
X_E15 W__3 S__3 E__15 vdd gnd AND
X_E16 W__4 S__4 E__16 vdd gnd AND
X_E17 W__4 S__5 E__17 vdd gnd AND
X_E18 W__4 S__6 E__18 vdd gnd AND
X_E19 W__4 S__7 E__19 vdd gnd AND
X_E20 W__5 S__4 E__20 vdd gnd AND
X_E21 W__5 S__5 E__21 vdd gnd AND
X_E22 W__5 S__6 E__22 vdd gnd AND
X_E23 W__5 S__7 E__23 vdd gnd AND
X_E24 W__6 S__4 E__24 vdd gnd AND
X_E25 W__6 S__5 E__25 vdd gnd AND
X_E26 W__6 S__6 E__26 vdd gnd AND
X_E27 W__6 S__7 E__27 vdd gnd AND
X_E28 W__7 S__4 E__28 vdd gnd AND
X_E29 W__7 S__5 E__29 vdd gnd AND
X_E30 W__7 S__6 E__30 vdd gnd AND
X_E31 W__7 S__7 E__31 vdd gnd AND

X_OD0 in1 E__0 out724 vdd gnd XOR
X_OD1 in5 E__1 out725 vdd gnd XOR
X_OD2 in9 E__2 out726 vdd gnd XOR
X_OD3 in13 E__3 out727 vdd gnd XOR
X_OD4 in17 E__4 out728 vdd gnd XOR
X_OD5 in21 E__5 out729 vdd gnd XOR
X_OD6 in25 E__6 out730 vdd gnd XOR
X_OD7 in29 E__7 out731 vdd gnd XOR
X_OD8 in33 E__8 out732 vdd gnd XOR
X_OD9 in37 E__9 out733 vdd gnd XOR
X_OD10 in41 E__10 out734 vdd gnd XOR
X_OD11 in45 E__11 out735 vdd gnd XOR
X_OD12 in49 E__12 out736 vdd gnd XOR
X_OD13 in53 E__13 out737 vdd gnd XOR
X_OD14 in57 E__14 out738 vdd gnd XOR
X_OD15 in61 E__15 out739 vdd gnd XOR
X_OD16 in65 E__16 out740 vdd gnd XOR
X_OD17 in69 E__17 out741 vdd gnd XOR
X_OD18 in73 E__18 out742 vdd gnd XOR
X_OD19 in77 E__19 out743 vdd gnd XOR
X_OD20 in81 E__20 out744 vdd gnd XOR
X_OD21 in85 E__21 out745 vdd gnd XOR
X_OD22 in89 E__22 out746 vdd gnd XOR
X_OD23 in93 E__23 out747 vdd gnd XOR
X_OD24 in97 E__24 out748 vdd gnd XOR
X_OD25 in101 E__25 out749 vdd gnd XOR
X_OD26 in105 E__26 out750 vdd gnd XOR
X_OD27 in109 E__27 out751 vdd gnd XOR
X_OD28 in113 E__28 out752 vdd gnd XOR
X_OD29 in117 E__29 out753 vdd gnd XOR
X_OD30 in121 E__30 out754 vdd gnd XOR
X_OD31 in125 E__31 out755 vdd gnd XOR



* Correction *

*Definizione del tipo di analisi
.CONTROL

*Voltages: drain gate source
*Current: drain gate source body

dc TEMP 85 85 85
print V(T__0) V(T__1) V(T__2) V(T__3) V(T__4) V(T__5) V(T__6) V(T__7) V(W__0) V(W__1) V(W__2) V(W__3) V(W__4) V(W__5) V(W__6) V(W__7) V(U__0) V(U__1) V(in1) V(in5) V(in9) V(in13) V(in17) V(in21) V(in25) V(in29) V(in33) V(in37) V(in41) V(in45) V(in49) V(in53) V(in57) V(in61) V(in65) V(in69) V(in73) V(in77) V(in81) V(in85) V(in89) V(in93) V(in97) V(in101) V(in105) V(in109) V(in113) V(in117) V(in121) V(in125) V(in129) V(in130) V(in131) V(in132) V(in133) V(in134) V(in135) V(in136) V(in137) V(S__0) V(S__1) V(S__2) V(S__3) V(S__4) V(S__5) V(S__6) V(S__7) V(XA__0) V(XA__1) V(XA__2) V(XA__3) V(XA__4) V(XA__5) V(XA__6) V(XA__7) V(XA__8) V(XA__9) V(XA__10) V(XA__11) V(XA__12) V(XA__13) V(XA__14) V(XA__15) V(F__0) V(F__1) V(F__2) V(F__3) V(F__4) V(F__5) V(F__6) V(F__7) V(H__0) V(H__1) V(H__2) V(H__3) V(H__4) V(H__5) V(H__6) V(H__7) V(XB__0) V(XB__1) V(XB__2) V(XB__3) V(XB__4) V(XB__5) V(XB__6) V(XB__7) V(XC__0) V(XC__1) V(XC__2) V(XC__3) V(XC__4) V(XC__5) V(XC__6) V(XC__7) V(XE__0) V(XE__1) V(XE__2) V(XE__3) V(XE__4) V(XE__5) V(XE__6) V(XE__7) V(G__0) V(G__1) V(G__2) V(G__3) V(G__4) V(G__5) V(G__6) V(G__7) V(XD__0) V(XD__1) V(XD__2) V(XD__3) V(XD__4) V(XD__5) V(XD__6) V(XD__7) V(S__0) V(S__1) V(S__2) V(S__3) V(S__4) V(S__5) V(S__6) V(S__7) V(S0B__0) V(S0B__1) V(S0B__2) V(S0B__3) V(S0B__4) V(S1B__0) V(S1B__1) V(S1B__2) V(S1B__3) V(S1B__4) V(S2B__0) V(S2B__1) V(S2B__2) V(S2B__3) V(S2B__4) V(S3B__0) V(S3B__1) V(S3B__2) V(S3B__3) V(S3B__4) V(S4B__0) V(S4B__1) V(S4B__2) V(S4B__3) V(S4B__4) V(S5B__0) V(S5B__1) V(S5B__2) V(S5B__3) V(S5B__4) V(S6B__0) V(S6B__1) V(S6B__2) V(S6B__3) V(S6B__4) V(S7B__0) V(S7B__1) V(S7B__2) V(S7B__3) V(S7B__4) V(T0_temp) V(T1_temp) V(T2_temp) V(T3_temp) V(T4_temp) V(T5_temp) V(T6_temp) V(T7_temp) V(T0_out1) V(T0_out2) V(T1_out1) V(T1_out2) V(W0_temp) V(W1_temp) V(W2_temp) V(W3_temp) V(W4_temp) V(W5_temp) V(W6_temp) V(W7_temp) V(E__0) V(E__1) V(E__2) V(E__3) V(E__4) V(E__5) V(E__6) V(E__7) V(E__8) V(E__9) V(E__10) V(E__11) V(E__12) V(E__13) V(E__14) V(E__15) V(E__16) V(E__17) V(E__18) V(E__19) V(E__20) V(E__21) V(E__22) V(E__23) V(E__24) V(E__25) V(E__26) V(E__27) V(E__28) V(E__29) V(E__30) V(E__31) V(out724) V(out725) V(out726) V(out727) V(out728) V(out729) V(out730) V(out731) V(out732) V(out733) V(out734) V(out735) V(out736) V(out737) V(out738) V(out739) V(out740) V(out741) V(out742) V(out743) V(out744) V(out745) V(out746) V(out747) V(out748) V(out749) V(out750) V(out751) V(out752) V(out753) V(out754) V(out755)
quit
.ENDC
.END